Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ woman with stage 4 lung cancer (60 pack 
year smoking history, non-operable, patient refusing 
chemo/radiation), severe AS (mean gradient 40 in ___, refusing 
intervention), mitral valve stenosis, and anemia (Hgb 9.3 in 
___, who was transferred to ___ from Urgent Care for chest 
pain, concerning for STEMI. 

Patient has had chest pain, shortness of breath, and dyspnea for 
the past 2 months. Pain got worse 1 month ago, so patient 
stopped smoking. For the past week, patient has had many "bad 
days" with intermittent, substernal chest pain. Last night at 
3am, pt woke up to a "terrific pain" in her chest, radiating to 
jaw. Associated with shortness of breath. Took ASA 81mg. Pain 
improved, and pt went back to sleep. This morning, pt woke up 
and had intermitted chest pain, so presented to ___. 

In Urgent Care office:
Pt continued to have chest pain.
VS: T 97.1 HR 88 BP 124/60 O2 99% on ra
Exam significant for: In acute distress, rrr with large blowing 
murmur, lungs clear, no edema
EKG significant for V1 and V2 ST elevation, reciprocal changes 
in the inferior leads, and new T wave inversions in III/aVF, 
consistent with acute MI.
Patient was transferred to the ___ ED for further evaluation 
and management of this chest pain with ST elevations. Aspirin 
325mg and nitroglycerin were given en route, with some relief of 
pain. Patient was placed on 2L nc and IV access was obtained.  

In the ED, initial VS were: T 98 HR 82 BP 134/58 RR 16 O2 98%ra
Exam notable for normal cardiopulmonary exam.
Labs showed Hgb 6.6 and trop of 0.05.
EKG showed 1mm STE in V2 and V3 and 0.5-1mm depressions 
inferiorly.
Imaging: CXR showed small bilateral pleural effusions. ECHO 
showed LVEF>55%
Interventions: Code STEMI was called, patient taken to cath lab.

Upon arrival to cath lab, her chest pain and EKG changes 
resolved. Cardiology did not think her presentation was 
consistent with anterior STEMI, so they did not cath her. Also, 
cath did not seem within goals of care. Decision was made to 
admit to medicine for further management of anemia evaluation, 
transfusion, and goals of care discussion.

On arrival to the floor, patient reports that her chest pain is 
still present, ___. It gets worse when she moves around or 
speaks. Pain is substernal, she describes as an "elephant" on 
her chest. Associated with shortness of breath. Has fatigue for 
the past few weeks. No hemoptysis, melena, or BRBPR.  

REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, abdominal pain, 
nausea, vomiting, diarrhea,  BRBPR, melena, hematochezia, 
dysuria, hematuria.  
+constipation

All other 10-system review negative in detail.  

 
Past Medical History:
No history of CAD, patient does not follow with cardiology.
Aortic stenosis
Adenocarcinoma of the lung 
Anemia
Mitral Valve prolapse & stenosis
Hearing loss, sensorineural 
TOBACCO DEPENDENCE  
HISTORY HYSTERECTOMY 
GASTRIC ULCER, UNSPEC 

 
Social History:
___
Family History:
No FH of cardiac disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS -  T 97.6 HR 77 BP 137/87 RR 18 O2 98% on ra
GENERAL: sitting in bed, uncomfortable, nontoxic, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, loud blowing murmur; no gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
VS - T 98.5 HR 68 BP 136/66 RR 18 SaO2 97% ra
GENERAL: pale, sitting in bed, uncomfortable, nontoxic, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, loud blowing murmur; no gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. Alert & oriented to person, city, and 
year.
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS
___ 12:35PM BLOOD WBC-6.5 RBC-2.75* Hgb-6.6* Hct-21.8* 
MCV-79* MCH-24.0* MCHC-30.3* RDW-17.4* RDWSD-49.7* Plt ___
___ 12:35PM BLOOD Neuts-74.7* Lymphs-13.8* Monos-9.3 
Eos-1.4 Baso-0.5 Im ___ AbsNeut-4.88 AbsLymp-0.90* 
AbsMono-0.61 AbsEos-0.09 AbsBaso-0.03
___ 12:35PM BLOOD Plt ___
___ 12:35PM BLOOD Ret Aut-1.7 Abs Ret-0.05
___ 12:35PM BLOOD Glucose-85 UreaN-10 Creat-0.7 Na-133 
K-3.9 Cl-101 HCO3-21* AnGap-15
___ 12:35PM BLOOD ALT-7 AST-22 LD(LDH)-190 AlkPhos-62 
TotBili-0.1
___ 12:35PM BLOOD cTropnT-0.05*
___ 12:35PM BLOOD Calcium-8.9 Phos-3.3 Mg-2.1
___ 12:35PM BLOOD Hapto-133

OTHER PERTINENT LABS
___ 12:35PM BLOOD cTropnT-0.05*
___ 09:20PM BLOOD CK-MB-3 cTropnT-0.07*
___ 07:00AM BLOOD cTropnT-0.06*

DISCHARGE LABS
___ 07:00AM BLOOD WBC-6.0 RBC-3.17* Hgb-7.9* Hct-25.3* 
MCV-80* MCH-24.9* MCHC-31.2* RDW-17.4* RDWSD-50.6* Plt ___
___ 07:00AM BLOOD Glucose-79 UreaN-10 Creat-0.7 Na-135 
K-4.2 Cl-104 HCO3-22 AnGap-13
___ 07:00AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1

MICRO
None

IMAGING
___ CXR:  
Small bilateral pleural effusions with bibasilar atelectasis.  
No overt signs of edema. 

___ ECG:
Sinus rhythm. Borderline P-R interval prolongation. Consider 
left atrial 
abnormality. Non-diagnostic inferior Q waves but with T wave 
inversion in lead aVF. Q waves in leads V3-V6 with ST segment 
elevation in leads V1-V3 with ST segment depression in leads I 
and V5-V6. Consider anterior ST elevation myocardial infarction 
with lateral ischemia. However, the lateral Q waves raise the 
possibility of prior apicolateral event. No previous tracing 
available for comparison. Clinical correlation is suggested.  

___ ECG:
Sinus rhythm with atrial premature beats. Compared to the 
previous tracing  of ___ the rate is somewhat faster. Early 
precordial ST segment elevations may be somewhat more prominent. 
ST-T wave abnormalities are less prominent at a somewhat faster 
rate. 

 
Brief Hospital Course:
SUMMARY: Ms ___ is a ___ woman with stage 4 lung cancer, 
severe AS, and chronic anemia, who was admitted for chest pain. 
Initially, her chest pain and mild ST elevations were concerning 
for STEMI, so she was taken to the cath lab. However, her pain 
and ECG changes resolved upon arrival to the cath lab, so she 
was admitted to the Medical Wards for further management of her 
anemia (Hgb 6.5 on admission) and for goals of care discussion. 
She was transfused 1 unit pRBC, with appropriate rise in her Hb, 
with improvement in her weakness and dyspnea on exertion. She 
was evaluated by cardiology, who felt that her symptoms were not 
concerning for ACS. Given her Stage 4 lung cancer, she is not 
surgical candidate for aortic valve repair. Team had an 
extensive goals of care conversation on ___ with patient and 
her son ___ was made Health Care Proxy & patient 
completed a MOLST form, and was made DNR/DNI. She will go home 
with home hospice.

# CHEST PAIN: 
Initially, ST elevations in V1-V4 were concerning for STEMI, so 
patient was taken to the cath lab upon arrival to ED. However, 
her chest pain and ischemic changes on ECG completely resolved, 
so she was admitted to the medical service. Repeat ECG on floor 
showed 2mm ST elevated in V2 and 1mm ST elevation in V1. Pt 
received ASA 325 mg prior to admission and 81 mg PO x 1 upon 
arrival to the floor. She had originally been evaluated for 
possible cardiac catherization, however, per the cardiology 
fellow Dr. ___ declined all intervention. This decline of 
intervention seems consistent with prior desires as indicated in 
Atrius notes. Documentation of consent for cardiac cath was 
signed by the patient, and the patient endorsed that she "wanted 
everything done". Given resolution of her symptoms, she was 
admitted to medicine for further management. Given her 
downtrending troponins and normal ECHO, chest pain was thought 
to be demand ischemia, not ACS. She was monitored on telemetry 
and given ASA 81mg daily. Held beta blocker and heparin given 
severe anemia. Cardiology consulted, appreciate their recs. Per 
cardiology, patient is not a candidate for valve replacement. 

# ANEMIA: 
Patient has chronic anemia, with most recent Hgb 9.3 in ___. 
On admission, Hgb was 6.6. Patient denied signs and symptoms of 
bleeding. Per Atrius records, she has a history of a gastric 
ulcer and endorsed GERD symptoms. Also has a history of AVM per 
Atrius records. Given history of aortic stenosis, checked for 
active hemolysis, but hemolysis labs were normal. Hemoglobin 
remained stable after transfusion, and is 7.9 on discharge. 

# STAGE 4 LUNG CANCER: 
Patient has a 60-pack year smoking history, and known stage-4 
lung carcinoma. The malignancy is non-operable, and the patient 
does not want chemotherapy or radiation. She is not on active 
treatment and does not require oxygen at home. Oxygen saturation 
was monitored, and remained stable throughout hospitalization. 
Goals of care were discussed, as below. 

# AORTIC STENOSIS: 
Patient has known AS prior to admission, with mean gradient 40 
in ___. Per outside records, she had previously declined 
intervention; confirmed with cardiology that she declined 
intervention. Admission ECHO showed severe aortic valve stenosis 
(valve area <1.0cm2). Cardiology evaluated, appreciate their 
recs. Per cardiology, given the patient's stage 4 lung carcinoma 
and multiple other comorbidities, she would not be a candidate 
for valve replacement. 

# GOALS OF CARE:
Prior to this admission, patient had multiple discussions with 
PCP (latest ___ to discuss goals of care with her metastatic 
lung adenocarcinoma. Per Atrius notes, " Adenocarcinoma, lung, 
unspecified laterality: Inoperable and she refused 
chemotherapy...She refused discussion regarding palliative care 
or hospice care and insisted on being full code... Today, I 
discussed with ___ the futility of intubation and mechanical 
ventilation in someone with inoperable lung cancer and critical 
valvular heart disease, yet she elected to be full code". 
Patient still has capacity. Team met with patient, her family, 
social work, and palliative care; she made her son ___ the HCP 
on ___. Had a very productive goals of care meeting on ___, 
and patient completed MOLST form; she is now DNR/DNI, and would 
not like to be hospitalized unless it is for comfort. She is 
very clear on what her wishes are. She would like to enjoy the 
time she has left, and would like to spend this time at home, 
not in a hospital. 

TRANSITIONAL ISSUES
- ANEMIA: Patient has known gastric ulcer, and baseline Hgb 
___, requiring 1 u pRBC, with appropriate rise in H/H. H/H 
subsequently stable and was 7.9 upon discharge. Can consider 
occasional monitoring with pallative transfusions as needed. 
- HOSPICE CARE: Patient would like to be comfortable and avoid 
future hospitalizations. She completed MOLST form and would like 
Home Hospice services. 
- GOALS OF CARE: Patient is DNR/DNI.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Simvastatin 10 mg PO QPM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Chest pain secondary to demand ischemia

SECNDARY DIAGNOSES
- Aortic stenosis
- Lung carcinoma with metastasis to multiple lymph nodes
- Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you. You were admitted to ___ 
___ for chest pain. While you were 
here, you were evaluated by our cardiology team; you were not 
having a heart attack, and you did not require a surgical 
procedure for your chest pain. Your blood counts were very low, 
so you received a  unit of blood cells, and your counts 
improved.

We also had an important family meeting with you, your son, and 
our full team. You completed the MOLST form, which expresses 
your wishes when you leave the hospital. We will set you up with 
services at home so that you can get help with medications and 
assistance around the house. 

We wish you all the best in the future.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___